US05942544
Part C. Methyl 3-(3-nitrophenyl)-5-(4-cyanophenyl)-2,4-pentadienoate (0.869 gm, 2.6 mmol) was dissolved in THF and degassed with N2. A catalytic amount of 10% Pd/C was added and the solution was placed on a Parr shaker for 45 min. at 45 p.s.i. The solution was filtered through Celite and the solvent was removed under vacuum. The residue was chromatographed on silica gel eluting ethyl acetate:methylene chloride (20:80, v:v) to give methyl 3-(3-aminophenyl)-5-(4-cyanophenyl)pentanoate as an oil 0.512 gm (64%). 1H NMR (CDCl3): 1.9 (m, 2H), 2.55 (t, 2H), 3.0 (m, 1H), 3.25 (m, 2H), 3.6 (s, 3H), 6.5 (s, 1H), 6.55 (m, 2H), 7.1 (t, 1H), 7.3 (m, 2H), 7.55 (m, 3H).

reactant | Methyl 3-(3-nitrophenyl)-5-(4-cyanophenyl)-2,4-pentadienoate | 2.6 mmol, 0.869 gm | [N+](=O)([O-])C=1C=C(C=CC1)C(=CC(=O)OC)C=CC1=CC=C(C=C1)C#N | C19H14N2O4
solvent | THF | C1CCOC1 | C4H8O
product | methyl 3-(3-aminophenyl)-5-(4-cyanophenyl)pentanoate | 0.512 gm, 64% | NC=1C=C(C=CC1)C(CC(=O)OC)CCC1=CC=C(C=C1)C#N | C19H20N2O2
